US07605267B2
Preparation of 1-(α-chloroacetyl)-8-(phenylmethoxy)-(1H)-quinolin-2-one
A 3 L, 4-necked flask equipped with a mechanical stirrer, thermometer, addition funnel and refluxing condenser is charged with 40 g 8-(phenylmethoxy)-5-acetyl-(1H)-quinolin-2-one and 800 mL acetic acid under an atmosphere of nitrogen. To this yellow solution is added 94.93 g benzyl-trimethylammoniumdichloroiodate and 400 mL acetic acid. The resulting suspension is heated under stirring to an internal temperature of 65-70° C. The mixture is stirred at this internal temperature until an in-process control shows complete conversion to 5-chloroacetyll-8-phenylmethoxy-(1H)-quinolin-2-one. Then the mixture is cooled to an internal temperature of 40-45° C. Within 30-60 minutes, 600 mL water is added. The resulting suspension is stirred at room temperature for 30-60 minutes and then filtered. The solid residue is washed with 200 mL water in several portions and then added to 2000 L ethyl acetate in a 3 L, 4-necked flask equipped with a mechanical stirrer, thermometer and refluxing condenser. This mixture is heated to reflux and refluxed for 15 minutes. The mixture is cooled to an internal temperature of 0-2° C. and stirred at this internal temperature for 2 hours. The mixture is filtered and washed with 250 mL water in several portions, and dried overnight in a vacuum drier at 60° C. to give the title compound with a yield of 39.64 g.

reactant | 8-(phenylmethoxy)-5-acetyl-(1H)-quinolin-2-one | 40 g | C1(=CC=CC=C1)COC=1C=CC(=C2C=CC(NC12)=O)C(C)=O | C18H15NO3
reactant | acetic acid | 800 mL | C(C)(=O)O | C2H4O2
reactant | benzyl-trimethylammoniumdichloroiodate | 94.93 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
solvent | water | 600 mL | O | H2O
product | 1-(α-chloroacetyl)-8-(phenylmethoxy)-(1H)-quinolin-2-one | ClCC(=O)N1C(C=CC2=CC=CC(=C12)OCC1=CC=CC=C1)=O | C18H14ClNO3
